US04879382
11-[1-[4-(2-methoxyphenyl)piperazin-1-yl]-2-butynyl]-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine
To 150 ml of p-dioxane were added 11-(2-propynyl)-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine (2.3 g), 4-(2-methoxyphenyl)piperazine (2.1 g), paraformaldehyde (2.0 g), and CuCl (0.02 g). After stirring at 80° C. for three hours, the mixture was concentrated to 6.9 g of brown oil, which was eluted on a silica gel column with 5% methaol/DCM via HPLC. The desired fraction was concentrated to 4.3 g of 11-[1-[4-(2-methoxyphenyl)piperazin-1-yl]-2-butynyl]-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine, as a light brown oil; MS(EI)M+ @ 442(6.7%), IR(CHCl3)--C≡CH @ 3300 cm-1

reactant | 11-(2-propynyl)-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 2.3 g | C(C#C)N1CC=2N(N(C3=C1C=NC=C3)C)C=CC2 | C14H14N4
reactant | 4-(2-methoxyphenyl)piperazine | 2.1 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | paraformaldehyde | 2.0 g | C=O | CH2O
catalyst | CuCl | 0.02 g | Cl[Cu]
solvent | p-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 11-[1-[4-(2-methoxyphenyl)piperazin-1-yl]-2-butynyl]-10,11-dihydro-5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | COC1=C(C=CC=C1)N1CCN(CC1)C(C#CC)N1CC=2N(N(C3=C1C=NC=C3)C)C=CC2 | C26H30N6O
